US07402596B2
To a solution of 5-amino-1H-isochromen-1-one (2.95 g, 18.3 mmol) and NMM (2.02 mL, 18.3 mmol) in 1,4 dioxane (55 mL) was added dropwise at room temperature a solution of 1-adamantaneacetic acid chloride (3.9 g, 18.3 mmol) in 1,4-dioxane (40 mL). The reaction mixture was stirred at room temperature for 3 h and then partitioned between DCM (400 mL) and water (200 mL). The layers were separated. The aqueous phase was washed with DCM (100 mL). The combined organic layers were dried over sodium sulfate, filtered and evaporated. The crude product was suspended in hexane (100 mL) and filtered off. The solid was collected on the filter and dried in vacuo to yield 2-adamantan-1-yl-N-(1-oxo-1H-isochromen-5-yl)-acetamide as a yellow solid (5.6 g, 16.7 mmol, 91%).

reactant | 5-amino-1H-isochromen-1-one | 18.3 mmol, 2.95 g | NC1=C2C=COC(C2=CC=C1)=O | C9H7NO2
reactant | NMM | 18.3 mmol, 2.02 mL | CN1CCOCC1 | C5H11NO
reactant | 1-adamantaneacetic acid chloride | 18.3 mmol, 3.9 g | C12(CC3CC(CC(C1)C3)C2)CC(=O)Cl | C12H17ClO
solvent | 1,4 dioxane | 55 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | 2-adamantan-1-yl-N-(1-oxo-1H-isochromen-5-yl)-acetamide | 16.7 mmol, 5.6 g, 91% | C12(CC3CC(CC(C1)C3)C2)CC(=O)NC2=C3C=COC(C3=CC=C2)=O | C21H23NO3
